US04661505
5-(4-Acetyl-3-hydroxy-2-propylphenoxy)pentanehydroxamic acid
Four and six-tenths grams of 5-(4-acetyl-3-hydroxy-2-propylphenoxy)pentanoic acid were converted to the corresponding acid chloride according to the procedure of Example 55. The resulting acid chloride and 1.05 g. of hydroxylamine hydrochloride were dissolved in 50 ml. of methylene chloride, after which were added 4.15 ml. of triethylamine in about 50 ml. of methylene chloride. After stirring overnight at room temperature, the methylene chloride was removed by evaporation and the residue was partitioned between acetate and dilute hydrochloric acid. The layers were separated, and the ethyl acetate solution was evaporated in vacuo. The residue was dissolved in diethyl ether and the solution was extracted with dilute sodium hydroxide solution. The aqueous basic solution was then made acidic with dilute hydrochloric acid and the solution was extracted with ethyl acetate. The ethyl acetate layer was dried over sodium sulfate and evaporated to dryness. The residue was crystallized from methylene chloride/hexane to provide 400 mg. of the title product.

reactant | 5-(4-acetyl-3-hydroxy-2-propylphenoxy)pentanoic acid | C(C)(=O)C1=C(C(=C(OCCCCC(=O)O)C=C1)CCC)O | C16H22O5
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-(4-Acetyl-3-hydroxy-2-propylphenoxy)pentanehydroxamic acid | C(C)(=O)C1=C(C(=C(OCCCCC(=O)NO)C=C1)CCC)O | C16H23NO5
